### PR TITLE
[Merged by Bors] - feat(Order/SupClosed): `compl_image_latticeClosure` and `compl_image_latticeClosure_eq_of_compl_image_eq_self`

### PR DESCRIPTION
**Pull request by FMLJohn**
The main results in this pull request are:
1. `compl_image_latticeClosure`: given any Boolean algebra `α` and `s : Set α`, `compl '' latticeClosure s` is the same as `latticeClosure (compl '' s)`;
2. `compl_image_latticeClosure_eq_of_compl_image_eq_self`: given any Boolean algebra `α` and `s : Set α` such that `compl '' s = s`, we have `compl '' latticeClosure s = latticeClosure s`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/SupClosed.lean [hunk 1]
```diff
@@ -435,6 +435,24 @@ def latticeClosure : ClosureOperator (Set α) :=
...
+    (inf : ∀ (a : α) (has : a ∈ latticeClosure s) (b : α) (hbs : b ∈ latticeClosure s),
+      p a has → p b hbs → p (a ⊓ b) (IsSublattice.infClosed isSublattice_latticeClosure has hbs))
+    {a : α} (has : a ∈ latticeClosure s) :
+    p a has := by
+  have h1 : s ⊆ { a : α | ∃ has : a ∈ latticeClosure s, p a has } := by
+    intro a ha
+    exact ⟨subset_latticeClosure ha, mem a ha⟩
+  have h2 : IsSublattice { a : α | ∃ has : a ∈ latticeClosure s, p a has } := {
+    supClosed := fun a ⟨has, hpa⟩ b ⟨hbs, hpb⟩ =>
+      ⟨IsSublattice.supClosed isSublattice_latticeClosure has hbs, sup a has b hbs hpa hpb⟩
```
Comment (YaelDillies) [inline Mathlib/Order/SupClosed.lean:451]:
```suggestion
      ⟨isSublattice_latticeClosure.supClosed has hbs, sup a has b hbs hpa hpb⟩
```
same below

File: Mathlib/Order/SupClosed.lean [hunk 2]
```diff
@@ -528,6 +546,41 @@ lemma InfClosed.sInf_mem_of_nonempty (hs : InfClosed s) (ht : t.Finite) (ht' : t
 
 end ConditionallyCompleteLattice
 
+section BooleanAlgebra
+variable [BooleanAlgebra α] (s : Set α)
+
+lemma compl_image_latticeClosure :
+    compl '' (latticeClosure s) = latticeClosure (compl '' s) := by
```
Comment (YaelDillies) [inline Mathlib/Order/SupClosed.lean:553]:
```suggestion
    compl '' latticeClosure s = latticeClosure (compl '' s) := by
```

Comment (YaelDillies) [inline Mathlib/Order/SupClosed.lean:553]: Can you:
1. prove that an order iso preserves lattice closure
2. prove that `latticeClosure (ofDual ⁻¹' s) = ofDual ⁻¹' latticeClosure (`
3. deduce your `compl` result using the fact that `ofDual ∘ compl` is an order iso

Comment (YaelDillies) [reply Mathlib/Order/SupClosed.lean]: Yes there should be: You can connect both if them through `toDual` (and the proof for `toDual` should be simpler since it's basically defeq)

**Review by YaelDillies — APPROVED** [review]
Sorry for the delay! I finally had time to look at this again, and everything looks fine modulo a few golfs which I've made.

maintainer merge

**Comment by bryangingechen** [comment]
Thanks!
bors r+
